US07399759B2
2-(6-Methoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of methyl thiosalicylate (0.56 g, 3.4 mmol), 2-cyano-6-methoxypyridine (0.45 g, 3.4 mmol), triethylamine (0.70 ml, 5.0 mmol) and toluene (50 ml) was refluxed for 48 hrs as described in Example 1. The reaction mixture was concentrated under reduced pressure and recrystallized from ethanol to give the titled compound (0.12 g, 13%) as crystals.

reactant | methyl thiosalicylate | 3.4 mmol, 0.56 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 2-cyano-6-methoxypyridine | 3.4 mmol, 0.45 g | C(#N)C1=NC(=CC=C1)OC | C7H6N2O
reactant | triethylamine | 5.0 mmol, 0.70 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Methoxy-2-pyridyl)-4H-1,3-benzothiazine-4-one | 0.12 g, 13% | COC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2 | C14H10N2O2S
